US07153854B2
To 1-tert-butyl 7-ethyl 2-acetyl-2-(3-cyanobenzoyl)-heptanedioate (4.2 g) was added trifluoroacetic acid (20 mL) in an ice-water bath. After 30 minutes, the bath was removed and the reaction mixture was stirred at ambient temperature. After 1 hour, the mixture was concentrated. The residue was dissolved in toluene and was evaporated in vacuo to give ethyl 6-(3-cyanobenzoyl)-7-oxooctanoate (3.20 g, 100.4%) as colorless oil.

reactant | 1-tert-butyl 7-ethyl 2-acetyl-2-(3-cyanobenzoyl)-heptanedioate | 4.2 g | C(C)(=O)C(C(=O)OC(C)(C)C)(CCCCC(=O)OCC)C(C1=CC(=CC=C1)C#N)=O | C23H29NO6
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 6-(3-cyanobenzoyl)-7-oxooctanoate | 3.20 g, 100.4% | C(#N)C=1C=C(C(=O)C(CCCCC(=O)OCC)C(C)=O)C=CC1 | C18H21NO4
